US06960586B2
Production of 7-bromo-1-hydroxy-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one
7-Bromo-1-methoxynaphtho[1,2-c]furan-3(1H)-one (1.03 g) was dissolved in THF (10 mL), and 40% methylamine methanol solution (10 mL) was added. The reaction mixture was stirred at room temperature for 1 hr., and the solvent was evaporated to give the title compound (1.03 g) as pale-yellow crystals.

reactant | 7-Bromo-1-methoxynaphtho[1,2-c]furan-3(1H)-one | 1.03 g | BrC=1C=C2C=CC3=C(C(OC3=O)OC)C2=CC1 | C13H9BrO3
reactant | methylamine methanol | 10 mL | CO.CN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-bromo-1-hydroxy-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 1.03 g | BrC1=CC2=C(C=3C(N(C(C3C=C2)=O)C)O)C=C1 | C13H10BrNO2
